US06284789B1
A 89 mg (0.5 mmol) quantity of 84 was dissolved in 0.5 mL of dioxane containing 5% water. DDQ (231 mg, 1.02 mmol) was dissolved in 2 mL of dioxane containing less than 0.01% water. The solution of DDQ was added dropwise over a period of 3 minutes to the stirred solution of 6-hydroxy-7 methoxytetralin, under nitrogen. The reaction solution was stirred at 25° C. under nitrogen for 3 hours, after which time the reaction mixture was then filtered through a sintered glass funnel and the residue (DDHQ) washed with 2 mL of dioxane. The filtrate was evaporated to dryness and the residue purified by flash chromatography (EtOAc: hexane, 1:1) to give 68 mg (71% yield) of 6-hydroxy-7-methoxytetralin-1-one. mp 117-119° C., (lit. 117-119° C.); IR 3338 (O—H str.), 3013, 2945, 2871, 2841, 1664 (C═O str.), 1612, 1578, 1509, 1335, 1282, 1223, 1182, 1131, 1032, 800 cm−1; 1H NMR (CDCl3) δ7.51 (1H, s, H-8), 6.73 (1H, s, H-5), 6.44 (1H, s, —OH), 3.88 (3H, s, —OCH3), 2.83 (2H, t, J=6.11 Hz), 2.57 (2H, t, J=6.53 Hz), 2.07 (2H, qn, J=6.34 Hz, H-3); 13C NMR (CDCl3) 197.3 (C-1), 150.8, 145.7, 140.1, 125.6, 113.8, 108.5, 56.1, 38.5, 29.2, 23.7, 23.5; LRMS EI m/z 192[M+, base peak], 177[M+—CH3], 164 [M+—CO].

reactant | DDQ | 1.02 mmol, 231 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 6-hydroxy-7 methoxytetralin | OC=1C=C2CCCCC2=CC1OC | C11H14O2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-hydroxy-7-methoxytetralin-1-one | 68 mg, 71% yield | OC=1C=C2CCCC(C2=CC1OC)=O | C11H12O3
